### PR TITLE
[Merged by Bors] - feat: port Order.Heyting.Hom

### PR DESCRIPTION
**Pull request by LukasMias**
@[protect_proj] is currently unimplemented. Other than that, dangerous instances fixed in the standard way and not much else interesting going on here.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Heyting/Hom.lean [hunk 1]
```diff
@@ -0,0 +1,632 @@
...
+    map_sdiff := fun f a b =>
+      eq_of_forall_ge_iff fun c =>
+        by
+        simp only [← le_map_inv_iff, sdiff_le_iff]
+        rw [← OrderIsoClass.map_le_map_iff f]
+        simp }
+#align order_iso_class.to_biheyting_hom_class OrderIsoClass.toBiheytingHomClass
+
+-- See note [reducible non instances]
+/-- This can't be an instance because of typeclass loops. -/
```
Comment (dupuisf) [inline Mathlib/Order/Heyting/Hom.lean:186]:
```suggestion
-- See note [reducible non instances]
/- This can't be an instance because of typeclass loops.
Porting note: Revisit this issue to see if it works in Lean 4. -/
```

File: Mathlib/Order/Heyting/Hom.lean [hunk 2]
```diff
@@ -0,0 +1,632 @@
...
+    map_himp := fun f a b => by rw [himp_eq, himp_eq, map_sup, (isCompl_compl.map _).compl_eq]
+    map_sdiff := fun f a b => by rw [sdiff_eq, sdiff_eq, map_inf, (isCompl_compl.map _).compl_eq] }
+#align bounded_lattice_hom_class.to_biheyting_hom_class BoundedLatticeHomClass.toBiheytingHomClass
+
+section HeytingAlgebra
+
+variable [HeytingAlgebra α] [HeytingAlgebra β] [HeytingHomClass F α β] (f : F)
+
+-- include β
+
```
Comment (dupuisf) [inline Mathlib/Order/Heyting/Hom.lean:202]:
```suggestion

```

File: Mathlib/Order/Heyting/Hom.lean [hunk 3]
```diff
@@ -0,0 +1,632 @@
...
+-- TODO: `map_bihimp`
+end HeytingAlgebra
+
+section CoheytingAlgebra
+
+variable [CoheytingAlgebra α] [CoheytingAlgebra β] [CoheytingHomClass F α β] (f : F)
+
+-- include β
+
```
Comment (dupuisf) [inline Mathlib/Order/Heyting/Hom.lean:219]:
```suggestion

```

File: Mathlib/Order/Heyting/Hom.lean [hunk 4]
```diff
@@ -0,0 +1,632 @@
...
+#align heyting_hom.cancel_left HeytingHom.cancel_left
+
+end HeytingHom
+
+namespace CoheytingHom
+
+variable [CoheytingAlgebra α] [CoheytingAlgebra β] [CoheytingAlgebra γ] [CoheytingAlgebra δ]
+
+instance : CoheytingHomClass (CoheytingHom α β) α β
+    where
```
Comment (dupuisf) [inline Mathlib/Order/Heyting/Hom.lean:388]:
```suggestion
instance : CoheytingHomClass (CoheytingHom α β) α β where
```

File: Mathlib/Order/Heyting/Hom.lean [hunk 5]
```diff
@@ -0,0 +1,632 @@
...
+
+@[ext]
+theorem ext {f g : CoheytingHom α β} (h : ∀ a, f a = g a) : f = g :=
+  FunLike.ext f g h
+#align coheyting_hom.ext CoheytingHom.ext
+
+/-- Copy of a `CoheytingHom` with a new `toFun` equal to the old one. Useful to fix definitional
+equalities. -/
+protected def copy (f : CoheytingHom α β) (f' : α → β) (h : f' = f) : CoheytingHom α β
+    where
```
Comment (dupuisf) [inline Mathlib/Order/Heyting/Hom.lean:420]:
```suggestion
protected def copy (f : CoheytingHom α β) (f' : α → β) (h : f' = f) : CoheytingHom α β where
```

**Review by dupuisf — COMMENTED** [review]
Thanks!

bors d+
